US07557213B2
Step 4: 3-(4-Methoxy-3-methyl-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 168 mg (0.50 mmol) of 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 2.5 mL THF and 2.5 mL 0.5M 4-methoxy-3-methylphenylmagnesium bromide. Yield: 107 mg of a white solid. LC-MSD, m/z for C25H22N2O3 [M+H]+=399.1; HPLC retention time: 2.1 min.

reactant | 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.50 mmol, 168 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C)C | C19H19N3O3
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | 4-methoxy-3-methylphenylmagnesium bromide | 0.5M, 2.5 mL | COC1=C(C=C(C=C1)[Mg]Br)C
product | 3-(4-Methoxy-3-methyl-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | COC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)C)C=C1)C | C25H22N2O3
